US08530468B2
3-(1-(Dimethylamino)propan-2-yloxy)-5-(isoquinolin-3-ylamino)pyrazine-2-carbonitrile (AA-001)
A mixture of palladium (II) acetate (24 mg, 0.11 mmol) and (±)-2,2″-bis(diphenylphosphino)-1,1″-binaphthalene (140 mg, 0.22 mmol) in toluene (2 mL) was degassed under a stream of nitrogen gas with stirring for 10 minutes. After addition of 3-chloroisoquinoline (59 mg, 0.36 mmol), 5-amino-3-(1-(dimethylamino)propan-2-yloxy)pyrazine-2-carbonitrile (80 mg, 0.36 mmol) in DMF (0.5 mL), and sodium tert-butoxide (42 mg, 0.43 mmol), the mixture was degassed for a further 5 minutes and then heated at 140° C. for 30 minutes in a microwave reactor. Upon cooling, the mixture was diluted with methanol and isolated by SPE using a MP-TsOH cartridge, washing with methanol and then eluting with 2 M ammonia in methanol. The basic fractions were combined and concentrated in vacuo. Preparative HPLC gave the title compound (8.9 mg, 0.026 mmol, 7%). 1H NMR (d6-DMSO, 400 MHz) δ 9.22 (s, 1H), 8.45 (s, 1H), 8.23 (s, 1H), 8.09 (d, 1H, J=9.1 Hz), 7.84 (d, 1H, J=8.1 Hz), 7.77-7.73 (m, 1H), 7.58-7.54 (m, 1H), 5.53-5.49 (m, 1H), 2.67-2.63 (m, 1H), 2.34-2.32 (m, 1H), 2.21 (s, 6H), 1.46 (d, 3H, J=6.3 Hz). LC-MS (2) Rt=2.93 min m/z (ESI−) 347 (M−H).

reactant | 3-chloroisoquinoline | 0.36 mmol, 59 mg | ClC=1N=CC2=CC=CC=C2C1 | C9H6ClN
reactant | 5-amino-3-(1-(dimethylamino)propan-2-yloxy)pyrazine-2-carbonitrile | 0.36 mmol, 80 mg | NC=1N=C(C(=NC1)C#N)OC(CN(C)C)C | C10H15N5O
reactant | sodium tert-butoxide | 0.43 mmol, 42 mg | CC(C)([O-])C.[Na+]
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
catalyst | palladium (II) acetate | 0.11 mmol, 24 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(1-(Dimethylamino)propan-2-yloxy)-5-(isoquinolin-3-ylamino)pyrazine-2-carbonitrile | 0.026 mmol, 8.9 mg, 7% | CN(CC(C)OC=1C(=NC=C(N1)NC=1N=CC2=CC=CC=C2C1)C#N)C | C19H20N6O
